US06355653B1
2,7-Di-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):289 (M+H+,100), was prepared in accordance with the general method of example 1 from 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine and (E)/(Z)-3-pyridin-2-yl-acrylonitrile.

reactant | 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine | C1(=CC=CC=C1)S(=O)(=O)CC=1N=C(NN1)C1=NC=CC=C1 | C14H12N4O2S
reactant | (Z)-3-pyridin-2-yl-acrylonitrile | N1=C(C=CC=C1)\C=C/C#N | C8H6N2
product | 2,7-Di-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | N1=C(C=CC=C1)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C16H12N6
